US07884126B2
100 mg of 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylic acid and 78 mg of p-toluenesulfonic acid are heated at 75° C. for 3 days in 5 ml of ethanol. The batch is evaporated, water is added, and the mixture is neutralised. The mixture is extracted three times with EA, the combined org. phases are washed with water, dried and evaporated to dryness. Purification by RP chromatography gives 30 mg of ethyl 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylate, corresponding to a yield of 27%.

reactant | 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylic acid | 100 mg | NC1=NNC2=CC=C(C=C12)C1=CC=C(O1)C(=O)O | C12H9N3O3
reactant | p-toluenesulfonic acid | 78 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylate | 30 mg, yield of 27% | NC1=NNC2=CC=C(C=C12)C1=CC=C(O1)C(=O)OCC | C14H13N3O3
